US07307172B2
Preparation of 7-chloro-6-octyl-5-phenyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine
A mixture of 17 g (0.05 mol) of 7-hydroxy-6-octyl-5-phenyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine (cf. Ex. 7) and 50 ml of phosphorus oxychloride was heated under reflux for 8 h. Work-up was carried out analogously to Ex. 2. This gave 16 g (0.046 mol) of the title compound.

reactant | 7-hydroxy-6-octyl-5-phenyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine | 0.05 mol, 17 g | OC1=C(C(=NC=2N1N=CN2)C2=CC=CC=C2)CCCCCCCC | C19H24N4O
reactant | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-6-octyl-5-phenyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine | 0.046 mol, 16 g | ClC1=C(C(=NC=2N1N=CN2)C2=CC=CC=C2)CCCCCCCC | C19H23ClN4
